US08168659B2
[3-(1,1-Difluoro-ethyl)-phenyl]-methanol
Add a solution of 3-(1,1-Difluoro-ethyl)-benzoic acid ethyl ester (3.57 mmol) in THF (5 mL) dropwise to a 1M solution of lithium aluminum hydride in THF (4.3 mL) at room temperature. Stir for 20 minutes then add ice followed by a mixture of concentrated sulfuric acid and ice (approximately 1:1 v:v). Extract with ethyl ether, dry the organic extracts over sodium sulfate, filter, and evaporate to give the title compound in 97% yield. GCMS MW 172 (M). 1H NMR (400.43 MHz, CDCl3): δ 7.49 (s, 1H), 7.41-7.39 (m, 3H), 4.70 (s, 2H), 1.94-1.85 (m, 3H).

reactant | 3-(1,1-Difluoro-ethyl)-benzoic acid ethyl ester | 3.57 mmol | C(C)OC(C1=CC(=CC=C1)C(C)(F)F)=O | C11H12F2O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 4.3 mL | C1CCOC1 | C4H8O
product | [3-(1,1-Difluoro-ethyl)-phenyl]-methanol | 97% yield | FC(C)(F)C=1C=C(C=CC1)CO | C9H10F2O
